US05952386
A solution of 0.17 g of 3,5-dichloro-4-(3-hydroxypropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene, 0.09 g of 4-chlorophenyl isocyanate and a catalytic amount of pyridine dissolved in 10 ml of toluene was heated at 60° to 70° C., while stirring, for 3 hours, and the reaction mixture was then concentrated to give a residue. The residue was subjected to silica gel chromatography, which afforded 0.19 g of 3,5-dichloro-4-(3-(N-(4-chlorophenyl)carbamoyloxy)propyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene (77% yield), m.p., 54.3° C.

reactant | 3,5-dichloro-4-(3-hydroxypropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.17 g | ClC=1C=C(C=C(C1OCCCO)Cl)OCC=C(Cl)Cl | C12H12Cl4O3
reactant | 4-chlorophenyl isocyanate | 0.09 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-dichloro-4-(3-(N-(4-chlorophenyl)carbamoyloxy)propyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.19 g, 77% yield | ClC=1C=C(C=C(C1OCCCOC(NC1=CC=C(C=C1)Cl)=O)Cl)OCC=C(Cl)Cl | C19H16Cl5NO4
